US04748253
A mixture of 1-(4'-aminophenyl)-propan-1-one (30 g, 0.2 mol), phthalic anhydride (60 g, 0.4 mol) and of acetic acid (300 ml) is heated at reflux for 2 h. The reaction mixture is cooled to room temperature and the precipitate consisting of 1-(4'-phthalimidophenyl)-propan-1-one (41 g, 0.150 mol, yield 75%) is filtered and dried in vacuo

reactant | 1-(4'-aminophenyl)-propan-1-one | 0.2 mol, 30 g | NC1=CC=C(C=C1)C(CC)=O | C9H11NO
reactant | phthalic anhydride | 0.4 mol, 60 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 1-(4'-phthalimidophenyl)-propan-1-one | 0.150 mol, 41 g, yield 75% | C1(C=2C(C(N1C1=CC=C(C=C1)C(CC)=O)=O)=CC=CC2)=O | C17H13NO3
